US09169223B2
4-(1-oxo-1-(piperidin-1-yl)hexan-2-yl)benzoic acid
Oxone (257 mg, 0.42 mmol) was added to a stirred solution of 4-(1-oxo-1-(piperidin-1-yl)hexan-2-yl)benzaldehyde (100 mg, 0.35 mmol) in DMF (5 mL) and the resulting mixture was stirred at room temperature for 16 hours. The DMF was removed in vacuo and the resulting residue was purified by flash column chromatography (50% EtOAc/hexane, Rf=0.4) to afford the desired compound as a pale yellow solid (68 mg. 64%). MP=142° C. 1H NMR (400 MHz, CDCl3) 0.86 (t, J=7 Hz, 3H); 1.05 (m, 1H); 1.15 (m, 1H); 1.2-1.6 (multiple signals, 8H); 1.71 (m, 1H); 2.10 (m, 1H); 3.33-3.43 (m, 3H); 3.69 (m, 1H); 3.77 (t, J=7 Hz, 1H); 7.38 (d, J=8.4 Hz, 2H); 8.02 (d, J=8.4 Hz, 2H). 13C NMR (75 MHz, CDCl3) 13.98, 22.68, 24.50, 25.55, 26.16, 30.04, 34.60, 43.32, 46.68, 48.82, 128.04, 130.50, 153.75, 170.59. HRMS (ESI+1 ion) m/z calcd for C18H26NO3 304.1907. found 304.1917.

reactant | Oxone | 0.42 mmol, 257 mg | OOS(=O)[O-].[K+]
reactant | 4-(1-oxo-1-(piperidin-1-yl)hexan-2-yl)benzaldehyde | 0.35 mmol, 100 mg | O=C(C(CCCC)C1=CC=C(C=O)C=C1)N1CCCCC1 | C18H25NO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(1-oxo-1-(piperidin-1-yl)hexan-2-yl)benzoic acid | 68 mg, 64% | O=C(C(CCCC)C1=CC=C(C(=O)O)C=C1)N1CCCCC1 | C18H25NO3
